US09029399B2
Preparation of Intermediate 6-Bromo-5-fluoro-benzo[b]thiophene-2-carboxylic acid methyl ester (I-27b)
Using analogous reaction condition and reagents as described in Example 25 for the preparation of I-25a above, 4-bromo-2,5-difluoro-benzaldehyde (I-27a: 1.71 g, 7.73 mmol) was reacted with TEA (1.4 mL, 10.05 mmol), mercapto-acetic acid methyl ester (920 mg, 8.51 mmol) and acetonitrile (50 mL) to afford crude product. Purification by column chromatography on silica gel (5% ethyl acetate in hexane) afforded 2.3 g of the product (Yield 64%).

reactant | 4-bromo-2,5-difluoro-benzaldehyde | 7.73 mmol, 1.71 g | BrC1=CC(=C(C=O)C=C1F)F | C7H3BrF2O
reactant | mercapto-acetic acid methyl ester | 8.51 mmol, 920 mg | COC(CS)=O | C3H6O2S
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 6-Bromo-5-fluoro-benzo[b]thiophene-2-carboxylic acid methyl ester | 2.3 g, Yield 64% | COC(=O)C1=CC2=C(S1)C=C(C(=C2)F)Br | C10H6BrFO2S
